US07053085B2
Compound 29: isopropyl 7-{(4R)-4-[(1E)-4,4-difluoro-3-hydroxy-4-phenylbut-1-en-1-yl]-2-oxo-1,3-oxazinan-3-yl}heptanoate
To a solution of catecholborane (107 mg) in toluene (1 mL) was added (S)-2-methyl-CBS-oxaborolidine (1M in toluene, 0.89 mL) under N2 at −78° C. and the mixture was stirred at the temperature for 1 h. Isopropyl 7-{(4R)-4-[(1E)-4,4-difluoro-3-oxo-4-phenylbut-1-en-1-yl]-2-oxo-1,3-oxazinan-3-yl}heptanoate (200 mg) in toluene (2 mL) was added via a cannula slowly and the mixture was stirred for an additional hour and quenched with 1N HCl. The mixture was allowed to warm to room temperature and extracted with DCM (2×). The organic layers were dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue purified by column chromatography (80–100% ethyl acetate/hexanes) to give the title compound. MS (+ESI): m/z 454 (M+1)+.

reactant | catecholborane | 107 mg | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | Isopropyl 7-{(4R)-4-[(1E)-4,4-difluoro-3-oxo-4-phenylbut-1-en-1-yl]-2-oxo-1,3-oxazinan-3-yl}heptanoate | 200 mg | FC(C(/C=C/[C@@H]1N(C(OCC1)=O)CCCCCCC(=O)OC(C)C)=O)(C1=CC=CC=C1)F | C24H31F2NO5
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | isopropyl 7-{(4R)-4-[(1E)-4,4-difluoro-3-hydroxy-4-phenylbut-1-en-1-yl]-2-oxo-1,3-oxazinan-3-yl}heptanoate | FC(C(/C=C/[C@@H]1N(C(OCC1)=O)CCCCCCC(=O)OC(C)C)O)(C1=CC=CC=C1)F | C24H33F2NO5
